* =====================================================================
* Clean 7-Pin LM3886 Macromodel for LTspice
* Compatible with Physical Symbol Pinouts (INP, INN, VCC, VEE, GND, OUT, MUTE)
* =====================================================================
.SUBCKT lm3886 Vip Vin VDD VSS GND Vout MUTE
* Input Stage Noise & Parameters
X_Input_Stage Vip Vin 22 21 GND INPUT_OP_0
+ PARAMS: RCM=1G CCM=1pf CDM=10pf
Vos 22 20 1M

* Open Loop Gain & Frequency Pole/Zero Transfer Function Blocks
XU2 20 Vin 11 GND PD_STAGE_0
+ PARAMS: AOL=115 GBW=8MEG SRP=19.1MEG SRN=19.1MEG
R_FIX_11 11 GND 1T

* Power Supply Rejection Ratio (PSRR) & Common Mode Rejection Ratio (CMRR)
XU4 VDD GND 15 16 GND PSRR_STAGE_0
+ PARAMS: PSRR=120 FPSRR=8K
R_FIX_15 15 GND 1T

XU_CMRR 16 18 GND CMRR_STAGE_0
+ PARAMS: CMRR=110 FCMRR=20

* Output Drive & Current Limit Clamps
XU3 11 Vout PD_STAGE_OUTPUT
+ PARAMS: RON=0.1 IMAX=11.5 IMIN=-11.5

* Quiescent Tracking & Mute Circuitry
XU5 MUTE 0 VDD VSS IV_MUTE_0
.ENDS

* --- Supporting Core Subcircuits ---
.SUBCKT INPUT_OP_0 VIP VIN VOP VON GND PARAMS: RCM=1G CCM=1p CDM=10p
C1 VOP GND {CCM}
C2 VON GND {CCM}
C3 VOP VON {CDM}
R1 VIP VOP {RCM}
R2 VIN VON {RCM}
.ENDS

.SUBCKT PD_STAGE_0 VIP VIM VO GND PARAMS: AOL=115 GBW=8MEG SRP=19.1MEG SRN=19.1MEG
.PARAM PI=3.141592
.PARAM CC=10pf
.PARAM FP={GBW/PWR(10,AOL/20)}
.PARAM RC={1/(2*PI*CC*FP)}
.PARAM GC={PWR(10,AOL/20)/RC}
G1 GND VO VIP VIM {GC}
C1 VO GND {CC}
R1 VO GND {RC}
.ENDS

.SUBCKT PSRR_STAGE_0 VDD VSS VI VO GND PARAMS: PSRR=120 FPSRR=8K
.PARAM PI=3.141592
.PARAM RPSRR=1
.PARAM GPSRR={PWR(10,-PSRR/20)/RPSRR}
G1 GND VO VDD VSS {GPSRR}
R1 VO GND {RPSRR}
.ENDS

.SUBCKT CMRR_STAGE_0 VI VO GND PARAMS: CMRR=110 FCMRR=20
.PARAM PI=3.141592
.PARAM RCMRR=1
.PARAM GCMRR={PWR(10,-CMRR/20)/RCMRR}
G1 GND VO VI GND {GCMRR}
R1 VO GND {RCMRR}
.ENDS

* --- Fixed Linear Output Stage for AC Sweep Compatibility ---
.SUBCKT PD_STAGE_OUTPUT IN OUT PARAMS: RON=0.1 IMAX=11.5 IMIN=-11.5
GRES IN OUT VALUE={LIMIT(V(IN,OUT)/RON, IMAX, IMIN)}
R_AC_DRIVE IN OUT {RON}
.ENDS
* =====================================================================

.SUBCKT IV_MUTE_0 MUTE GND VDD VSS
R_MUTE MUTE VSS 100K
.ENDS
* =====================================================================
